US07320993B1
6,6-diphenyl-hex-5-enylamine
Batch size: 7.8 g (20. mmol) 2-(6,6-diphenyl-hex-5-enyl)-isoindol-1,3-dione and 2.0 g (40.0 mmol) hydrazine.hydrate in 80 ml ethanol.

reactant | 2-(6,6-diphenyl-hex-5-enyl)-isoindol-1,3-dione | 7.8 g | C1(=CC=CC=C1)C(=CCCCCN1C(C2=CC=CC=C2C1=O)=O)C1=CC=CC=C1 | C26H23NO2
reactant | hydrazine.hydrate | 40.0 mmol, 2.0 g | NN.O
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 6,6-diphenyl-hex-5-enylamine | C1(=CC=CC=C1)C(=CCCCCN)C1=CC=CC=C1 | C18H21N
